US09085555B2
A. (S)-5-Acetoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of (S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (prepared according to J. Org. Chem. 2003, 60, 7219) (1.9 g, 7.8 mmol) in THF (25 mL), cooled to −78° C., was slowly added DibalH (1 M in toluene; 11.0 mL, 11.0 mmol) under an argon atmosphere, followed by stirring of the solution at −78° C. for 1 h. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl (30 mL). The mixture was allowed to warm up to RT, and a 10% aqueous Na2CO3 solution (20 mL) and CH2Cl2 (70 mL) were subsequently added. The layers were separated and the aqueous phase was extracted with CH2Cl2 (2×50 mL). The combined organics were dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in CH2Cl2 (25 mL), acetic anhydride (2.21 mL, 23.4 mmol), NEt3 (3.26 mL, 23.4 mmol) and 4-dimethylaminopyridine (0.2 g, 1.6 mmol) were subsequently added and the reaction mixture was stirred at RT overnight. The organics were washed with a saturated aqueous NaHCO3 solution (10 mL) and 1M aqueous HCl, dried (Phase separator) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 3:1 to 1:1) to give the title compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.5; MS: 310.0 [M+Na]+, 597.3 [2M+Na]+.

reactant | (S)-5-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 7.8 mmol, 1.9 g | COC(=O)[C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | acetic anhydride | 23.4 mmol, 2.21 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NEt3 | 23.4 mmol, 3.26 mL | CCN(CC)CC | C6H15N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 1.6 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-5-Acetoxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)[C@H]1N(C(CC1)OC(C)=O)C(=O)OC(C)(C)C | C13H21NO6
